US07772221B2
Step AU (4). To a solution of 2,2,2-trifluoro-N-(6-isopropoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide (20 g, 66 mmol) in THF (200 mL) at −78° C. was added L-Selectride (70 mL, 70 mmol). The reaction mixture was allowed to warm to rt and stir for 6 h. The reaction was quenched with HCl (1.0 N, 70 mL) and the resulting mixture was extracted with EtOAc (200 mL×2). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel column chromatography (10-40% EtOAc/Hexane) to afford 5 g (25% yield) of cis-2,2,2-trifluoro-N-(3-hydroxy-6-isopropoxy-2,3-dihydro-1H-inden-1-yl)acetamide. LC-MS (M−H2O+H)+=286.14, (M+Na)+=326.10. 1H NMR (300 MHz, CDCl3) δ 1.31-1.32 (d, 6H) 1.5 (s, 1H) 1.9-2.0 (m, 1H) 2.0-2.2 (m, 1H) 2.8-2.9 (m, 1H) 4.5-4.6 (m, 1H) 5.1-5.2 (m, 1H) 5.3-5.4 (m, 1H) 6.8-6.9 (m, 2H) 7.3-7.4 (d, 1H).

reactant | 2,2,2-trifluoro-N-(6-isopropoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide | 66 mmol, 20 g | FC(C(=O)NC1CC(C2=CC=C(C=C12)OC(C)C)=O)(F)F | C14H14F3NO3
reactant | L-Selectride | 70 mmol, 70 mL | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | cis-2,2,2-trifluoro-N-(3-hydroxy-6-isopropoxy-2,3-dihydro-1H-inden-1-yl)acetamide | 5 g, 25% yield | FC(C(=O)N[C@@H]1C[C@@H](C2=CC=C(C=C12)OC(C)C)O)(F)F | C14H16F3NO3
